US09079887B2
To a solution of methyl {(2S,3R)-1-((2S,4S)-2-(5-(4′-(2-((2S,5S)-1-((2S,3R)-2-(methoxycarbonylamino)-O-methyl-L-threonyl)-5-methylpyrrolidin-2-yl)-1H-imidazol-5-yl)biphenyl-4-yl)-1H-imidazol-2-yl)-4-(methoxymethyl)pyrrolidin-1-yl)-3-methoxy-1-oxobutan-2-yl}carbamate (0.12 g, 0.15 mmol) in DMF (1.5 mL) was added N-chlorosuccinimide (0.05 g, 0.38 mmol). The resulting solution was heated to 45° C. for 3 h and cooled to room temperature. The reaction solution was purified by preparative HPLC (Gemini C18, 20-75% MeCN/H2O (0.1% TFA)). The desired fractions were combined and lyophilized to provide methyl {(2S,3R)-1-((2S,4S)-2-(4-chloro-5-(4′-(2-((2S,5S)-1-((2S,3R)-2-(methoxycarbonylamino)-O-methyl-L-threonyl)-5-methylpyrrolidin-2-yl)-1H-imidazol-5-yl)biphenyl-4-yl)-1H-imidazol-2-yl)-4-(methoxymethyl)pyrrolidin-1-yl)-3-methoxy-1-oxobutan-2-yl}carbamate (0.006 g, 5%).

reactant | methyl {(2S,3R)-1-((2S,4S)-2-(5-(4′-(2-((2S,5S)-1-((2S,3R)-2-(methoxycarbonylamino)-O-methyl-L-threonyl)-5-methylpyrrolidin-2-yl)-1H-imidazol-5-yl)biphenyl-4-yl)-1H-imidazol-2-yl)-4-(methoxymethyl)pyrrolidin-1-yl)-3-methoxy-1-oxobutan-2-yl}carbamate | 0.15 mmol, 0.12 g | COC(=O)N[C@@](N)([C@H](OC)C)C(=O)N1[C@@H](CC[C@@H]1C)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(C[C@H](C1)COC)C([C@H]([C@@H](C)OC)NC(OC)=O)=O | C43H57N9O9
reactant | N-chlorosuccinimide | 0.38 mmol, 0.05 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | methyl {(2S,3R)-1-((2S,4S)-2-(4-chloro-5-(4′-(2-((2S,5S)-1-((2S,3R)-2-(methoxycarbonylamino)-O-methyl-L-threonyl)-5-methylpyrrolidin-2-yl)-1H-imidazol-5-yl)biphenyl-4-yl)-1H-imidazol-2-yl)-4-(methoxymethyl)pyrrolidin-1-yl)-3-methoxy-1-oxobutan-2-yl}carbamate | 0.006 g, 5% | ClC=1N=C(NC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N([C@H](CC1)C)C([C@](N)([C@H](OC)C)NC(=O)OC)=O)[C@H]1N(C[C@H](C1)COC)C([C@H]([C@@H](C)OC)NC(OC)=O)=O | C43H56ClN9O9
